US06833378B2
7-(1-Ethyl-propoxy)-5-methyl-3-(2,4,6-trimethyl-phenyl)-1,3-dihydro-imidazo[4,5-b]pyridin-2-one
The title compound was prepared by reacting 4-(1-ethyl-propoxy)-6-methyl-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,3-diamine with triphosgene, NEt3 in THF at room temperature. A white solid was isolated, mp. 184-186° C. Anal. For C21H27N3O2 calc. C, 71.36; H, 7.70; N, 11.89; found: C, 71.09; H, 7.75; N, 11.63.

reactant | 4-(1-ethyl-propoxy)-6-methyl-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,3-diamine | C(C)C(CC)OC1=C(C(=NC(=C1)C)NC1=C(C=C(C=C1C)C)C)N | C20H29N3O
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | NEt3 | CCN(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
product | 7-(1-Ethyl-propoxy)-5-methyl-3-(2,4,6-trimethyl-phenyl)-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | C(C)C(CC)OC1=C2C(=NC(=C1)C)N(C(N2)=O)C2=C(C=C(C=C2C)C)C | C21H27N3O2
